US06197798B1
A solution of 118.8 g of 2-aminoindane hydrochloride in 594 mL of water is heated to a temperature of 58-60° C. and 120.0 g of bromine is added over a period of 50 minutes while maintaining an internal temperature at 58 to 62° C. The mixture is stirred at 60-62° C. for 1 hour and 107 mL of hydrobromic (48%) is added over a period of 5 minutes while maintaining the internal temperature of 60-62° C. The mixture is stirred for an additional 10 minutes. The reaction mixture is cooled to an internal temperature of 20-23° C. over a period of 1 hour. The resulting solid is collected by filtration, washed with 3×133 mL of 2-propanol and dried at 58-60° C. under vacuum (10-30 torr) to obtain crude (±)-5-bromo-2-aminoindan hydrobromide. A suspension of 156.0 g of crude (±)-5-bromo-2-aminoindane hydrobromide in 390 mL of deionized water is heated to a temperature at 95-100° C. to obtain a clear solution. The solution is cooled to an internal temperature at 20-23° C. over a period of 2.5 hours and stirred at 20-23° C. for an additional 30 minutes. The resulting solid is collected by filtration and washed with 3×20 mL of water (precooled to 0-5° C.), and dried at 60-65° C. under vacuum (10-30 torr) with nitrogen bleeding to obtain (±)-5-bromo-2-aminoindane hydrobromide. A mixture of 130.0 g of (±)-5-bromo-2-aminoindane hydrobromide and 1500 mL of isopropyl acetate is stirred at 20-25° C. under nitrogen. A solution (precooled to 20-25° C.) of 26.62 g of sodium hydroxide and 186.35 g of sodium chloride in 750 mL of water is added over a period of 5 minutes while maintaining an internal temperature at 20-25° C. The suspension is stirred efficiently until all the solid dissolves (30 minutes). The organic layer is separated and the aqueous layer is extracted with 750 mL of isopropyl acetate. The organic layers are combined to afford ˜2330 mL of a solution of (±)-5-bromo-2-aminoindane free base.

reactant | (±)-5-bromo-2-aminoindane hydrobromide | 130.0 g | Br.BrC=1C=C2CC(CC2=CC1)N
reactant | isopropyl acetate | 1500 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | sodium hydroxide | 26.62 g | [OH-].[Na+]
reactant | sodium chloride | 186.35 g | [Cl-].[Na+]
solvent | water | 750 mL | O | H2O
product | (±)-5-bromo-2-aminoindane | BrC=1C=C2CC(CC2=CC1)N | C9H10BrN
